US08877754B2
N-Ethyl-2-{4-[4-(furan-2-ylmethoxy)-phenylethynyl]-phenyl}-propionamide
To 0.015 g (0.15 mmol) furan-2-ylmethanol in 0.75 mL THF are added 0.03 g (0.10 mmol) N-Ethyl-2-[4-(4-hydroxy-phenylethynyl)-phenyl]-propionamide (XVIII.2) and 40 mg polymer-bound triphenylphosphine (3 mmol/g resin). The mixture is cooled to 0° C. and 0.03 g (0.15 mmol) di-tert-butyl azodicarboxylate dissolved in 0.5 mL THF are added. The mixture is stirred over night at rt. After that time additional 0.03 g (0.15 mmol) di-tert-butyl azodicarboxylate dissolved in 0.5 mL THF are added and stirring is continued over night. Subsequently the mixture is filtered (Alox), washed (DMF/MeOH 9:1) and concentrated. The residue is dissolved in DMF and the desired product was purified using RP-HPLC (narrow gradient, water/MeOH+0.1% TFA).

reactant | furan-2-ylmethanol | 0.15 mmol, 0.015 g | O1C(=CC=C1)CO | C5H6O2
reactant | N-Ethyl-2-[4-(4-hydroxy-phenylethynyl)-phenyl]-propionamide | 0.10 mmol, 0.03 g | C(C)NC(C(C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)O)=O | C19H19NO2
reactant | triphenylphosphine | 40 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.15 mmol, 0.03 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | di-tert-butyl azodicarboxylate | 0.15 mmol, 0.03 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-Ethyl-2-{4-[4-(furan-2-ylmethoxy)-phenylethynyl]-phenyl}-propionamide | C(C)NC(C(C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCC=1OC=CC1)=O | C24H23NO3
